US05128355
Part B: Preparation of 1-[(2'-(Triphenylmethyl-tetrazol-5-yl)biphenyl-4-yl)methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole
1-[(2'-(Trimethylstannyltetrazol-5-yl)-biphenyl-4-yl)methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole (1.046 Kg), methylene chloride (5.00 L), tetrahydrofuran (0.85 L) and 10 N sodium hydroxide (192 ml) were charged to a 12 liter round-bottomed flask equipped with mechanical stirrer, condenser with N2 inlet, and thermometer. After stirring five minutes at room temperature, triphenylmethyl chloride (0.530 Kg) was added and the mixture stirred three hours. 10 N Sodium hydroxide (20 ml) and additional triphenylmethyl chloride (50 g) were added and the mixture stirred overnight. Deionized (D.I.) water (3.70 L) and 10 N sodium hydroxide (30 ml) were added and the phases allowed to separate. The organic phase was washed twice with 2.0 L portions of water, dried with sodium sulfate (100 g) and filtered into a 12 L round-bottomed flask equipped for distillation. Methylene chloride (~2.0 L) was distilled. Heating was discontinued and heptane (5.0 L) was added. The resulting slurry was stirred at ambient temperature over the weekend (18 68 hours). The mixture was cooled to ~5° C. and the product isolated by vacuum filtration, washed with heptane (1.0 L) and dried 48 hours in in vacuo at 40°-50° C. Yield: 959.5 g, 80%, M.P.: 167°-169° C. Purity by HPLC: 99.8%.

reactant | 1-[(2'-(Trimethylstannyltetrazol-5-yl)-biphenyl-4-yl)methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole | 1.046 Kg | C[Sn](C)(C)N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1CO)Cl)CCCC
reactant | methylene chloride | 5.00 L | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | 10 N, 192 ml | [OH-].[Na+]
reactant | triphenylmethyl chloride | 0.530 Kg | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | Sodium hydroxide | 10 N, 20 ml | [OH-].[Na+]
reactant | triphenylmethyl chloride | 50 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | sodium hydroxide | 10 N, 30 ml | [OH-].[Na+]
solvent | water | 3.70 L | O | H2O
solvent | tetrahydrofuran | 0.85 L | O1CCCC1 | C4H8O
product | 1-[(2'-(Triphenylmethyl-tetrazol-5-yl)biphenyl-4-yl)methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1CO)Cl)CCCC | C41H37ClN6O
